US07129238B2
To a stirred solution of (RS)-N-(4-cyano-benzyl)-2-[2,6-difluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-ethoxy-acetamide (300 mg) in 1,2-dimethoxyethane (8 ml) was added 4-bromopyridine hydrochloride (387 mg). A solution of sodium carbonate (210 mg) in water (2.1 ml) and dichloro(1,1′-bis(diphenylphosphino)ferrocene)palladium (II) (48 mg) were added. The mixture was stirred at 85° C. for 4 h and at rt overnight. After cooling to rt, ice water was added. The mixture was filtered and the filtrate was extracted with EtOAc. The org. phase was washed with brine, dried, filtered and concentrated. The product was purified by chromatography (SiO2, cyclohexane/EtOAc 2:1=>EtOAc) to give (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-4-pyridin-4-yl-phenyl)-2-ethoxy-acetamide (189 mg). Off-white solid. MS 408.2 ([M+H]+)

reactant | (RS)-N-(4-cyano-benzyl)-2-[2,6-difluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-ethoxy-acetamide | 300 mg | C(#N)C1=CC=C(CNC(C(OCC)C2=C(C=C(C=C2F)B2OC(C(O2)(C)C)(C)C)F)=O)C=C1 | C24H27BF2N2O4
reactant | 4-bromopyridine hydrochloride | 387 mg | Cl.BrC1=CC=NC=C1
reactant | sodium carbonate | 210 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 8 ml | COCCOC | C4H10O2
solvent | water | 2.1 ml | O | H2O
product | (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-4-pyridin-4-yl-phenyl)-2-ethoxy-acetamide | 189 mg | C(#N)C1=CC=C(CNC(C(OCC)C2=C(C=C(C=C2F)C2=CC=NC=C2)F)=O)C=C1 | C23H19F2N3O2
